US04920184
2,4,6,8-Tetrakis(6,7-epoxy-4-oxaheptyl)-2,4,6,8-tetramethylcyclotetrasiloxane (21)
Allyl glycidyl ether (57.1 g, 0.5 moles) was added to a 250 mL 3-neck flask, equipped with a stirrer, dropping funnel, internal thermometer and condenser, and heated to 100° C. After the addition of 1 mL of a 1 weight percent solution of hexachloroplatinic acid in diethylene glycol dimethyl ether, 24.0 g (0.1 moles) of 2,4,6,8-tetramethylcyclotetrasiloxane were added very rapidly with vigorous stirring, the internal temperature rising to 195° C. After the addition of 2,4,6,8-tetramethylcyclotetrasiloxane, stirring was continued until the temperature of the reaction product had dropped to 130° C. Unreacted portions of the allyl glycidyl ether and 2,4,6,8-tetramethylcyclotetrasiloxane were removed by stirring the reaction mixture at 60°-70° C. at a vacuum of 0.1 hPa, produced by an oil pump. The slightly yellowish crude product (77.8%), nD20 : 1.4633, was subjected to a fractional vacuum distillation using a packed column. The compound (21) distilled at about 335° C. and 1 hPa as a clear, viscous liquid, the greater portion polymerizing. nD20 : 1,4668.

reactant | Allyl glycidyl ether | 0.5 moles, 57.1 g | C(C1CO1)OCC=C | C6H10O2
reactant | 2,4,6,8-tetramethylcyclotetrasiloxane | 0.1 moles, 24.0 g | C[SiH]1O[SiH](O[SiH](O[SiH](O1)C)C)C | C4H16O4Si4
solvent | diethylene glycol dimethyl ether | COCCOCCOC | C6H14O3
catalyst | hexachloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 2,4,6,8-Tetrakis(6,7-epoxy-4-oxaheptyl)-2,4,6,8-tetramethylcyclotetrasiloxane | O1C(COCCC[Si]2(O[Si](O[Si](O[Si](O2)(C)CCCOCC2CO2)(C)CCCOCC2CO2)(C)CCCOCC2CO2)C)C1 | C28H56O12Si4
